US05455258
To a solution of D-alanine methyl ester hydrochloride (3.0 g, 21.5 mmol) in methanol (10 mL) is added benzaldehyde (2.3 mL, 22.6 mmol). The reaction mixture is stirred at room temperature for 3 hours. The solvent is then evaporated. To the resultant residue is added acetic acid (15 mL) and methanol (1 mL) followed by portionwise addition of sodium cyanoborohydride (1.35 g, 21.5 mmol) at room temperature. The mixture is stirred overnight, and then the solvent is evaporated. The remaining residue is diluted with water (75 mL) and basified with Na2CO3. The mixture is extracted with ethyl acetate (3×75 mL). The combined organic extracts are washed with brine (50 mL), dried (Na2SO4), and the solvent is evaporated to give N-benzyl-D-alanine methyl ester.

reactant | D-alanine methyl ester hydrochloride | 21.5 mmol, 3.0 g | Cl.COC([C@H](N)C)=O
reactant | benzaldehyde | 22.6 mmol, 2.3 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium cyanoborohydride | 21.5 mmol, 1.35 g | C(#N)[BH3-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | N-benzyl-D-alanine methyl ester | COC([C@H](NCC1=CC=CC=C1)C)=O | C11H15NO2
